US06437161B1
5 ml of n-BuLi (2.5 M in hexane, 12.5 mmol) were added dropwise at −95° C. to a solution of 2.5 g of 8-bromoquinoline (12 mmol) in 120 ml of THF, the mixture was stirred for 15 minutes, and 1.3 g of 2,3-dimethylcyclopent-2-enone (12 mmol) dissolved in 10 ml of THF were subsequently added. After warming to room temperature, the solution was refluxed for one hour. The cooled reaction mixture was hydrolyzed using ice, acidified using hydrochloric acid and then neutralized using ammonia solution. The aqueous phase was extracted with diethyl ether, and the combined organic phases were dried. Distillation at 150° C./0.05 mbar gave 1.1 g of 1-(8-quinolyl)-2,3-dimethylcyclopentadiene (40%) as a yellow, viscous oil.

reactant | n-BuLi | 12.5 mmol, 2.5 M, 5 ml | [Li]CCCC
reactant | 8-bromoquinoline | 12 mmol, 2.5 g | BrC=1C=CC=C2C=CC=NC12 | C9H6BrN
reactant | 2,3-dimethylcyclopent-2-enone | 12 mmol, 1.3 g | CC=1C(CCC1C)=O | C7H10O
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(8-quinolyl)-2,3-dimethylcyclopentadiene | 1.1 g, 40% | N1=CC=CC2=CC=CC(=C12)C1=C(C(=CC1)C)C | C16H15N
